US06489344B1
2,4-Dichlorophenacyl chloride (1.42 g, 6.4 mmol) and imidazole (1.18 g, 16 mmol) were heated in toluene (40 ml) at 75° C. for 2.25 hours. The mixture was concentrated to dryness in vacuo. The residue was dissolved in dichloromethane and washed with 5% aqueous potassium carbonate solution and water, dried and concentrated in vacuo. The crude product was purified by passage over a pad of silica gel, eluting with 5% methanol in dichloromethane to give 1-(2,4-dichlorophenyl)-2-imidazolylethan-1-one as an orange oil.

reactant | 2,4-Dichlorophenacyl chloride | 6.4 mmol, 1.42 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
reactant | imidazole | 16 mmol, 1.18 g | N1C=NC=C1 | C3H4N2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,4-dichlorophenyl)-2-imidazolylethan-1-one | ClC1=C(C=CC(=C1)Cl)C(CC=1NC=CN1)=O | C11H8Cl2N2O
